US06331538B1
1-(4-Methoxyphenyl)-6-fluoro-3-benzyloxy-7-(3-t-butoxycarbonylamino-pyrrolidin-1-yl)-1H-quinazoline-2,4-dione
Using General Method 4, the reaction of 3-t-butoxycarbonylamino-pyrrolidine (0.28 g, 1.5 mmol), triethylamine (0.2 mL, 1.5 mmol), and 1-(4-methoxyphenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione (Example C-1, 0.2 g, 0.5 mmol) provided 0.25 g of the title compound as a solid.

reactant | 3-t-butoxycarbonylamino-pyrrolidine | 1.5 mmol, 0.28 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | triethylamine | 1.5 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-methoxyphenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione | 0.5 mmol, 0.2 g | COC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)F)F)=O)OCC1=CC=CC=C1)=O | C22H16F2N2O4
product | 1-(4-Methoxyphenyl)-6-fluoro-3-benzyloxy-7-(3-t-butoxycarbonylamino-pyrrolidin-1-yl)-1H-quinazoline-2,4-dione | 0.25 g | COC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CC(CC1)NC(=O)OC(C)(C)C)F)=O)OCC1=CC=CC=C1)=O | C31H33FN4O6
